US04312876
Cis-1-ethoxycarbonyl-4-(3-fluorophenoxy)-3-phenylpiperidine
To a mixture of 6.23 g of trans-1-ethoxycarbonyl-3-phenyl-4-piperidinol, 7.21 g of triphenylphosphine and 2.49 ml of m-fluorophenol in 250 ml of anhydrous benzene is added dropwise under nitrogen at 5° C. over a 90 minute period a solution of 4.79 g of diethyl azodicarboxylate in 250 ml of benzene. After the addition is complete the mixture is stirred overnight at room temperature. The solid is filtered, washed with benzene, and the filtrate is concentrated in vacuo to a gum. The gum is triturated overnight in a stoppered flask with 250 ml of hexane. The solid is filtered and washed with hexane. The filtrate is washed with 10% aqueous sodium hydroxide solution (3×75 ml), water (2×100 ml), saturated sodium chloride solution (100 ml) and dried overnight over anhydrous sodium sulfate. Filtration and concentration in vacuo affords a light yellow oil. Chromatography of the oil on 430 g of silica gel, using 2:1 (petroleum ether:ether), affords a colorless, cloudy gum. Trituration of the gum with petroleum ether yields product as a colorless crystalline solid, mp 74°-76.5° C.

reactant | trans-1-ethoxycarbonyl-3-phenyl-4-piperidinol | 6.23 g | C(C)OC(=O)N1C[C@H]([C@@H](CC1)O)C1=CC=CC=C1 | C14H19NO3
reactant | triphenylphosphine | 7.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | m-fluorophenol | 2.49 ml | FC=1C=C(C=CC1)O | C6H5FO
reactant | diethyl azodicarboxylate | 4.79 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | Cis-1-ethoxycarbonyl-4-(3-fluorophenoxy)-3-phenylpiperidine | C(C)OC(=O)N1C[C@H]([C@H](CC1)OC1=CC(=CC=C1)F)C1=CC=CC=C1 | C20H22FNO3
